US07629346B2
6-(4-Chloro-phenyl)-5-piperidin-1-yl-pyrazine-2-carboxylic acid (2-cyclopropyl-2-hydroxy-propyl)-amide
To a solution of 0.050 g (0.00016 mol) 6-(4-chloro-phenyl)-5-pyrrolidin-1-yl-pyrazine-2-carboxylic acid in 2 ml dimethylformamide was added at room temperature 0.055 g (0.00032 mol) 1,1′-carbonyl-diimidazole and the mixture was stirred at room temperature for 30 min. To the resulting mixture was added 0.072 g (0.00063 mol) 1-amino-2-cyclopropyl-propan-2-ol, and the mixture was stirred at room temperature for 17 hours. The resulting mixture was partitioned between 10% aqueous citric acid and ethyl acetate. The phases were separated and the organic phase was dried over magnesium sulfate and evaporated. The residue was purified by chromatography on silica gel using a gradient of heptane to ethyl acetate to yield 0.043 g (66% yield) of the title compound as slightly yellow oil. MS (ISP) (M+H+)=415.

reactant | 6-(4-chloro-phenyl)-5-pyrrolidin-1-yl-pyrazine-2-carboxylic acid | 0.00016 mol, 0.050 g | ClC1=CC=C(C=C1)C1=C(N=CC(=N1)C(=O)O)N1CCCC1 | C15H14ClN3O2
reactant | 1,1′-carbonyl-diimidazole | 0.00032 mol, 0.055 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 1-amino-2-cyclopropyl-propan-2-ol | 0.00063 mol, 0.072 g | NCC(C)(O)C1CC1 | C6H13NO
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 6-(4-Chloro-phenyl)-5-piperidin-1-yl-pyrazine-2-carboxylic acid (2-cyclopropyl-2-hydroxy-propyl)-amide | 0.043 g, 66% yield | C1(CC1)C(CNC(=O)C1=NC(=C(N=C1)N1CCCCC1)C1=CC=C(C=C1)Cl)(C)O | C22H27ClN4O2
